US06794402B2
To a stirred suspension of 6-{trans-4-[3-(4-fluorophenyl)-propylamino]-cyclohexyl}-3H-benzoxazol-2-one (400 mg, 0.99 mmol) in THF (40 mL) and DMF (3 mL) was added NaHCO3 (180 mg, 2.2 mmol) and allyl bromide (130 mg, 1.1 mmol). After refluxing overnight, additional DMF (1.5 mL), allyl bromide (30 mg, 29 mmoL), and NaHCO3 (21 mg, 0.25 mmol) were added. The reaction mixture was refluxed for 12 hours and then cooled to room temperature. The material was diluted with water and extracted with EtOAc (3×). The combined organics were washed with water, saturated NaCl solution (3×), dried (Na2SO4), filtered, and concentrated under reduced pressure. Purification by flash chromatography (silica, 90:10 CH2Cl2:MeOH), followed by formation of the HCl salt, gave 6-(trans-4-{allyl-[3-(4-fluorophenyl)propyl]-amino}cyclohexyl)-3H-benzoxazol-2-one (138 mg, 31%), as a white solid: mp 224-230° C.; IR (KBr): 2943, 1770, 1510 cm−1; 1H NMR (500 MHz, DMSO-d6): δ 11.51 (s, 1H), 10.38 (br s, 1H), 7.31-7.28 (m, 2H), 7.17-7.11 (m, 3H), 7.00 (s, 2H), 6.11-6.04 (m, 1H), 5.55 (d, J=17 Hz, 1H), 5.45 (d, J=10 Hz, 1H), 3.87-3.71 (m, 2H), 3.38-3.31 (m, 1H), 3.19-3.13 (m, 1H), 3.05-2.92 (m, 1H), 2.70-2.51 (m, 3H), 2.18-2.12 (m, 2H), 2.07-1.99 (m, 2H), 1.92-1.87 (m, 2H), 1.72-1.50 (m, 4H); (ESI-MS (m/z): 409 [M+H]+; HPLC: method B, 11.34 minutes (98.1%); Anal. Calcd for C25H29FN2O2.HCl: C, 67.48; H, 6.80; N, 6.30. Found: C, 67.29; H, 6.93; N, 6.07.

reactant | 6-{trans-4-[3-(4-fluorophenyl)-propylamino]-cyclohexyl}-3H-benzoxazol-2-one | 0.99 mmol, 400 mg | FC1=CC=C(C=C1)CCCN[C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1 | C22H25FN2O2
reactant | NaHCO3 | 2.2 mmol, 180 mg | C(=O)(O)[O-].[Na+]
reactant | allyl bromide | 1.1 mmol, 130 mg | C(C=C)Br | C3H5Br
reactant | allyl bromide | 30 mg | C(C=C)Br | C3H5Br
reactant | NaHCO3 | 0.25 mmol, 21 mg | C(=O)(O)[O-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 6-(trans-4-{allyl-[3-(4-fluorophenyl)propyl]-amino}cyclohexyl)-3H-benzoxazol-2-one | 138 mg, 31% | C(C=C)N([C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1)CCCC1=CC=C(C=C1)F | C25H29FN2O2
